US07592456B2
Step 2: 2-{[6-(4-Fluorophenyl)-2-naphthyl]sulfonyl}-1-methyl-1H-imidazole
2-{[6-(4-Fluorophenyl)-2-naphthyl]thio}-1-methyl-1H-imidazole (125 mg, 0.4 mmol) was dissolved in CH2Cl2 (1 mL) and was cooled to 0° C. 3-Chloroperbenzoic acid (224 mg, 1.0 mmol) was added and the solution stirred at ambient temperature for 1.5 h. The solution was diluted with CH2Cl2 (1 mL) and calcium hydroxide (277 mg, 0.6 mmol) was added. The suspension was stirred for 30 minutes before filtering through a pad of Hyflo; the liquors were evaporated in vacuo. The residue was purified by flash column chromatography on silica, eluting with 55% ethyl acetate/isohexane, to give the title compound as a white solid (67 mg). 1H NMR (500 MHz, d6-DMSO): δ 8.74 (1H, s), 8.36 (2H, m), 8.22 (1H, d, J=8.7 Hz), 8.04 (1H, d, J=8.6 Hz), 7.93-7.91 (3H, m), 7.50 (1H, s), 7.38 (2H, t, J=8.8 Hz), 7.12 (1H, s), 3.97 (3H, s); m/z (ES+) 367 [MH+].

reactant | 2-{[6-(4-Fluorophenyl)-2-naphthyl]thio}-1-methyl-1H-imidazole | 0.4 mmol, 125 mg | FC1=CC=C(C=C1)C=1C=C2C=CC(=CC2=CC1)SC=1N(C=CN1)C | C20H15FN2S
reactant | 3-Chloroperbenzoic acid | 1.0 mmol, 224 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | calcium hydroxide | 0.6 mmol, 277 mg | [OH-].[Ca+2].[OH-]
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | 2-{[6-(4-Fluorophenyl)-2-naphthyl]sulfonyl}-1-methyl-1H-imidazole | 67 mg | FC1=CC=C(C=C1)C=1C=C2C=CC(=CC2=CC1)S(=O)(=O)C=1N(C=CN1)C | C20H15FN2O2S
